* NexRx Digital Twin - Component Library
* Basic component models for RF simulation
*
* Copyright 2026 NexRx Project - MIT License

*======================================================================
* TS3A4751 CMOS Analog Switch Model
* Simplified as voltage-controlled resistor
* Ron = 0.9 ohm, Roff = 10M ohm
* Control voltage: 0V = off, 3.3V = on
*======================================================================

.SUBCKT SW_TS3A4751 IN OUT CTRL GND
* Behavioral switch using Xyce's voltage-controlled resistor
* R = Roff when CTRL < 1.65V, R = Ron when CTRL > 1.65V
* Using smooth transition to help convergence
R_SW IN OUT R='0.9 + 1e7 * (1 - tanh(10*(V(CTRL,GND) - 1.65)))/2'
.ENDS SW_TS3A4751

*======================================================================
* Inductor with Q factor (series ESR model)
* Parameters: LVAL=inductance, QVAL=quality factor at FQ, FQ=Q measurement freq
*======================================================================

.SUBCKT IND_Q IN OUT LVAL=1u QVAL=100 FQ=10MEG
* ESR = 2*pi*Fq*L / Q
R_ESR IN 1 R='6.2832*{FQ}*{LVAL}/{QVAL}'
L_MAIN 1 OUT {LVAL}
.ENDS IND_Q

*======================================================================
* Capacitor with ESR (for realistic high-Q caps)
* Parameters: CVAL=capacitance, ESR=equivalent series resistance
*======================================================================

.SUBCKT CAP_ESR IN OUT CVAL=1n ESR=0.01
R_ESR IN 1 {ESR}
C_MAIN 1 OUT {CVAL}
.ENDS CAP_ESR

*======================================================================
* RF Relay/Switch - Ideal SPDT
* SEL=0 selects NC (normally closed), SEL=1 selects NO
*======================================================================

.SUBCKT SPDT_SW COM NC NO SEL GND
* NC path - on when SEL < 0.5V
R_NC COM NC R='0.1 + 1e6 * (tanh(10*(V(SEL,GND) - 0.5)) + 1)/2'
* NO path - on when SEL > 0.5V
R_NO COM NO R='0.1 + 1e6 * (1 - tanh(10*(V(SEL,GND) - 0.5)))/2'
.ENDS SPDT_SW

*======================================================================
* Digital Attenuator Pad (Pi topology)
* Parameters: ATTEN_DB=attenuation in dB, Z0=characteristic impedance
* Control: EN=0 bypass, EN=1 attenuate
*======================================================================

.SUBCKT ATTEN_PAD IN OUT EN GND ATTEN_DB=3 Z0=200
* Calculate resistor values for Pi attenuator
* K = 10^(ATTEN_DB/20)
* R1 = Z0 * (K-1) / (K+1)  [series]
* R2 = Z0 * (K^2-1) / (2*K) [shunt]
.PARAM K='PWR(10, {ATTEN_DB}/20)'
.PARAM R1='{Z0} * ({K}-1) / ({K}+1)'
.PARAM R2='{Z0} * ({K}*{K}-1) / (2*{K})'

* Bypass path (low resistance when EN=0)
R_BYP IN OUT R='0.1 + 1e6 * (tanh(10*(V(EN,GND) - 0.5)) + 1)/2'

* Attenuator path (active when EN=1)
* Input shunt
R_SH1 IN GND R='{R2} + 1e6 * (1 - tanh(10*(V(EN,GND) - 0.5)))/2'
* Series
R_SER IN OUT R='{R1} + 1e6 * (1 - tanh(10*(V(EN,GND) - 0.5)))/2'
* Output shunt
R_SH2 OUT GND R='{R2} + 1e6 * (1 - tanh(10*(V(EN,GND) - 0.5)))/2'
.ENDS ATTEN_PAD

*======================================================================
* Bias Tee - injects DC while passing RF
*======================================================================

.SUBCKT BIAS_TEE RF_IN RF_OUT DC_IN
* DC blocking cap (large value for HF)
C_BLOCK RF_IN RF_OUT 1u
* RF choke (high impedance at RF)
L_CHOKE DC_IN RF_OUT 2.2u
.ENDS BIAS_TEE

*======================================================================
* Simple transformer model (ideal turns ratio)
* Parameters: NRATIO = turns ratio (Vsec/Vpri)
*======================================================================

.SUBCKT XFMR_IDEAL PRI_P PRI_N SEC_P SEC_N NRATIO=1
E_SEC SEC_P SEC_N PRI_P PRI_N {NRATIO}
* Current scaling handled by dependent source
F_PRI PRI_P PRI_N VSENSE {NRATIO}
VSENSE SEC_P SEC_INT 0
R_DUMMY SEC_INT SEC_N 1e-6
.ENDS XFMR_IDEAL

*======================================================================
* Coupled inductor transformer (more realistic)
* Parameters: L1VAL=primary, L2VAL=secondary, KVAL=coupling coefficient
*======================================================================

.SUBCKT XFMR_COUPLED PRI_P PRI_N SEC_P SEC_N L1VAL=1u L2VAL=1u KVAL=0.99
L_PRI PRI_P PRI_N {L1VAL}
L_SEC SEC_P SEC_N {L2VAL}
K_XFMR L_PRI L_SEC {KVAL}
.ENDS XFMR_COUPLED

.END
